US05885986
125 ml of this crude solution of 8-fluoro-3-(5-iodomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were treated with 11.3 ml (0.109 mol) of diethylamine and stirred at room temperature for 20 hrs. The suspension obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated, the orange-brownish product was chromatographed over silica gel with ethyl acetate/methanol 17:3 as the eluent and recrystallized from hot ethyl acetate. There was obtained 0.75 g (16%) of 3-(5-diethylaminomethyloxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as light beige crystals; m.p. 182°-184°. A further 0.39 g of yellowish crystals was obtained from the mother liquor.

reactant | 8-fluoro-3-(5-iodomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=3OC(=CN3)CI)C)=O)C1 | C16H12FIN4O2
reactant | diethylamine | 0.109 mol, 11.3 ml | C(C)NCC | C4H11N
product | 3-(5-diethylaminomethyloxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.75 g, 16% | C(C)N(CC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C20H22FN5O2
